US04530714
Dodecylamine (85 g, 0.46 mol) was dissolved in methylene chloride (500 mL). The solution was cooled to 0° C., and saturated with anhydrous hydrogen chloride (45 minutes). The white, crystalline solid was separated and dried in vacuum over phosphorus pentoxide, to provide 97.5 g (95.5%) of n-dodecylamine hydrochloride.

reactant | Dodecylamine | 0.46 mol, 85 g | C(CCCCCCCCCCC)N | C12H27N
reactant | hydrogen chloride | Cl | ClH
solvent | methylene chloride | 500 mL | C(Cl)Cl | CH2Cl2
product | n-dodecylamine hydrochloride | 97.5 g, 95.5% | Cl.C(CCCCCCCCCCC)N | InChI=1S/C12H27N.ClH/c1-2-3-4-5-6-7-8-9-10-11-12-13;/h2-13H2,1H3;1H
